US08133995B2
Step 1: Preparation of 3-fluoro-4-nitrobenzoyl chloride
To a suspension of 3-fluoro-4-nitrobenzoic acid (30 g, 162.0 mmol) in toluene (500 mL) was added SOCl2 (35 mL, 486 mmol). The reaction was heated to 110° C. at which point the reaction became homogeneous. The reaction was stirred at 110° C. for 3 h. The reaction had not gone to completion so an additional portion of SOCl2 (10 mL) was added. The reaction was stirred for an additional 3 h. A small amount of stalling material remained thus a final portion of SOCl2 (10 mL) was added and the reaction was heated for 2 h. The resulting green solution was cooled to room temperature and allowed to stand over night. The reaction mixture was filtered and concentrated in vacuo. Toluene (300 mL) was added to the resulting oil and removed under reduced pressure (2×). The product was used without further purification.

reactant | 3-fluoro-4-nitrobenzoic acid | 162.0 mmol, 30 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | SOCl2 | 486 mmol, 35 mL | O=S(Cl)Cl | Cl2OS
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
reactant | SOCl2 | 10 mL | O=S(Cl)Cl | Cl2OS
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-nitrobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1[N+](=O)[O-] | C7H3ClFNO3
